US04282365
N-Carboxyloweralkyl 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxamide
Reflux 1.0 gm of 2-chlorocarbonyl-6,11-dihydro-11-oxodibenz[b,e]oxepin in 20 cc of ethyl acetate containing 2.0 gm of glycine for 5 hours. Evaporate the mixture to dryness. Add 30 cc of water to the solid residue and stir at room temperature for one hour. Separate the solid by filtration and recrystallize from ethanol to obtain the title product.

reactant | 2-chlorocarbonyl-6,11-dihydro-11-oxodibenz[b,e]oxepin | 1.0 gm | ClC(=O)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9ClO3
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | ethyl acetate | 20 cc, 2.0 gm | C(C)(=O)OCC | C4H8O2
product | 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxamide | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)N | C15H11NO3
